US07378418B2
361B. Preparation of 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one
To a stirring solution of 2-benzyl-4,5-dichloropyridazin-3(2H)-one (22.9 g, 89.8 mmol) in 1,4-dioxane (300 mL) at RT under argon was added NaOMe (22.4 mL, 25% solution in MeOH, 97.9 mmol) over 10 min by syringe. After 2 h, TLC indicated the reaction was completed. The reaction mixture was concentrated under reduced pressure. A saturated solution of NaCl (200 mL) was added and the resulting solution was extracted with CH2Cl2 (2×100 mL). The combined organic layers were dried (Na2SO4), concentrated under vacuum and purified by silica gel column chromatography eluting with CH2Cl2 to give the title compound, 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one (20.3 g, 90%) as a colorless oil. TLC (CH2Cl2, Rf=0.4); MS [M+H]+ 251; HPLC retention time=2.74 min.

reactant | 2-benzyl-4,5-dichloropyridazin-3(2H)-one | 89.8 mmol, 22.9 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)Cl | C11H8Cl2N2O
reactant | NaOMe | 97.9 mmol, 22.4 mL | C[O-].[Na+]
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one | 20.3 g, 90% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)Cl | C12H11ClN2O2
